US05008392
48.2 g (0.2 mol) of diethyl dichloromaleate were dissolved in 80 ml of dimethylformamide and 2 ml of glacial acetic acid, and the mixture was warmed to 100° C. Ammonia gas was then passed in. During this operation, the temperature increased to about 120° C. After 30 minutes, the temperature dropped back to 100° C.; the reaction was then complete. The solvent was then removed by vacuum distillation. The residue was taken up in methylene chloride, and the solution was washed with water. The methylene chloride solution was evaporated in a rotary evaporator. 38.9 g (87.8% yield) of diethyl aminochloromaleate were obtained as a yellow oil which solidified on trituration to form needle-shaped crystals (m.p. 84° C.-86° C.).

reactant | diethyl dichloromaleate | 0.2 mol, 48.2 g | Cl/C(=C(/C(=O)OCC)\Cl)/C(=O)OCC | C8H10Cl2O4
reactant | Ammonia | N | H3N
solvent | dimethylformamide | 80 ml | CN(C=O)C | C3H7NO
solvent | acetic acid | 2 ml | C(C)(=O)O | C2H4O2
product | diethyl aminochloromaleate | 38.9 g, 87.8% yield | N/C(=C(/C(=O)OCC)\Cl)/C(=O)OCC | C8H12ClNO4
